US05147875
2-(2-Propoxyphenyl)quinazolin-4(3H)-one
2-(2-Propoxybenzamido)benzamide (2.73 g) was added to a refluxing mixture of 2 Normal aqueous sodium hydroxide (55 ml) and pyridine (2 ml). The resulting solution was stirred under reflux for 15 minutes and was then poured onto ice (150 ml) and acidified with concentrated hydrochloric acid to yield a sample of the title compound, 2.28 g, m.p. 88°-89° C. This together with another sample (0.77 g) similarly prepared was recrystallised from ethanol/water to yield the pure title compound as a white solid, 2.57 g, m.p. 89°-90° C.

reactant | 2-(2-Propoxybenzamido)benzamide | 2.73 g | C(CC)OC1=C(C(=O)NC2=C(C(=O)N)C=CC=C2)C=CC=C1 | C17H18N2O3
reactant | sodium hydroxide | 55 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Propoxyphenyl)quinazolin-4(3H)-one | C(CC)OC1=C(C=CC=C1)C1=NC2=CC=CC=C2C(N1)=O | C17H16N2O2
